US04920212
A mixture of 456.2 g (1.30 mol) of (4-ethoxyphenyl)-(dimethyl)-(3-(3-chloro-4-fluorophenyl)propyl)silane, 232.2 g (2.00 mol) of sodium phenolate, 13 g of copper(I) chloride and 500 ml of tetraglyme was heated to 240°-255° C. for 1.5 h. After cooling the reaction mixture to 90° C., a larger part of the solvent was removed by distillation at 90°-140° C. internal temperature and 0.4 Torr (about 400 g). The crude product was then stirred at room temperature with 500 ml of 2N sodium hydroxide solution and extracted twice using 800 ml of hexane each time. The organic extracts were washed five times with 300 ml of water each time, dried over sodium sulfate and evaporated. The crude product thus obtained (486.1 g/92%) was distilled over a 50 cm split tube column. 233 g (44%) of (4-ethoxyphenyl)-(dimethyl)-(3-(4-fluoro-3-phenoxyphenyl)propyl)silane were obtained as a colorless oil of b.p.0.04 =208°-212° C., the purity of which was determined to be 95.2% by gas chromatography.

reactant | (4-ethoxyphenyl)-(dimethyl)-(3-(3-chloro-4-fluorophenyl)propyl)silane | 1.30 mol, 456.2 g | C(C)OC1=CC=C(C=C1)[Si](CCCC1=CC(=C(C=C1)F)Cl)(C)C | C19H24ClFOSi
reactant | sodium phenolate | 2.00 mol, 232.2 g | C1(=CC=CC=C1)[O-].[Na+]
catalyst | copper(I) chloride | 13 g | [Cu]Cl
solvent | tetraglyme | 500 ml | COCCOCCOCCOCCOC | C10H22O5
product | (4-ethoxyphenyl)-(dimethyl)-(3-(4-fluoro-3-phenoxyphenyl)propyl)silane | 233 g, 44% | C(C)OC1=CC=C(C=C1)[Si](CCCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C | C25H29FO2Si
